US06437146B1
A mixture of 3-{(2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoic acid (2.60 g, 5.98 mmol), triethylamine (1.08 ml, 7.77 mmol), and diphenylphosphoryl azide (1.67 ml, 7.77 mmol) in t-butanol-toluene (2:1, 80 ml) was stirred at 80° C. for 18 hours. After cooling the mixture to room temperature, the mixture was evaporated, diluted with EtOAc, washed with saturated sodium hydrogencarbonate solution, water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:EtOAc, 8:1 elution) to give {3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenyl}carbamic acid tert-butyl ester (2.36 g, 78%).

reactant | 3-{(2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoic acid | 5.98 mmol, 2.60 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C(=O)O)C=CC1 | C29H25NO3
reactant | triethylamine | 7.77 mmol, 1.08 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 7.77 mmol, 1.67 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | t-butanol toluene | 80 ml | C(C)(C)(C)O.C1(=CC=CC=C1)C
product | {3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenyl}carbamic acid tert-butyl ester | 2.36 g, 78% | C(C)(C)(C)OC(NC1=CC(=CC=C1)CC1C(=CCCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C33H34N2O3
